US08431695B2
Step 6: Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
To a suspension of 7-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2.7 g, 4.7 mmol) in DCM (17 mL) was added TFA (8.6 mL), and the reaction mixture was stirred at rt overnight. The reaction mixture was concentrated and ethyl acetate was added. Saturated, aqueous NaHCO3 was added until the pH was basic. Yellow gum formed in the wall of glass, it was dried in vacuum oven overnight and the title product was obtained as light yellow solid, 2.2 g (98%). 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 4.1 (m, 2 H), 3.2 (m, 2 H), 2.80 (m, 2 H); ES-MS m/z 472.29 [M+H]+, HPLC RT (min) 2.22.

reactant | 7-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 4.7 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C34H33N7O2
reactant | TFA | 8.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C1CCNCC1=C2 | C29H25N7
